US07592373B2
1.17.a. 4′-chloro-3-fluorobiphenyl-4-ylamine
1.95 g (12.47 mmol) of 4-chlorophenylboric acid, dissolved in 10 mL of methanol, and 3.9 g (36.79 mmol) of sodium carbonate, dissolved in 10 mL of water, are added successively to a reaction mixture of 2.28 g (12 mmol) of 4-bromo-2-fluoroaniline and 0.6 g (0.51 mmol) of tetrakistriphenylphosphine palladium in 90 mL of dioxane and stirred for 14 hours at 80° C. Then ethyl acetate is added and the reaction mixture is filtered. The filtrate is evaporated down and extracted with ethyl acetate and water. The organic phase is dried over sodium sulfate. The purification is carried out by column chromatography on silica gel (eluant: cyclohexane/ethyl acetate (3:1)). Yield: 2 g (75.2% of theory); C12H9FN (M=221.66); calc.: molecular ion peak (M+H)+: 222; found: molecular ion peak (M+H)+: 222; Rf value: 0.41 (silica gel, cyclohexane/ethyl acetate (3:1)).

reactant | 4-chlorophenylboric acid | 12.47 mmol, 1.95 g | ClC1=CC=C(C=C1)OB(O)O | C6H6BClO3
reactant | sodium carbonate | 36.79 mmol, 3.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-bromo-2-fluoroaniline | 12 mmol, 2.28 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | dioxane | 90 mL | O1CCOCC1 | C4H8O2
product | 4′-chloro-3-fluorobiphenyl-4-ylamine | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)N)F | C12H9ClFN
